US07276606B2
Furan-2-yl-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, 2-furoyl chloride, and indole according to GP 2. Yield, 72%. 1H-NMR (DMSO-d6): δ=6.19 (“d”, J=2.1 Hz, 1H), 6.51 (dd, J=3.4 Hz, J=1.7 Hz, 1H), 6.61 (d, J=7.9 Hz, 1H), 6.71 (d, J=3.4 Hz, 1H), 6.95-7.08 (m, 3H), 7.17-7.27 (m, 2H), 7.41 (“t”, J≈7.5 Hz, 1H), 7.48-7.56 (m, 2H), 7.63-7.65 (m, 2H), 7.88 (d, J=7.0 Hz, 1H), 7.97 (d, J=7.9 Hz, 1H), 8.07 (d, J=7.8 Hz, 1H), 10.70 (s, 1H); (+)-ESI-MS: m/z=391 [M+H]+, 274 [M-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | Furan-2-yl-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | O1C(=CC=C1)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C26H18N2O2
